US07745437B2
[6-(2-Chloro-imidazol-1-yl)-pyrimidin-4-yl]-cyclopropyl-amine
4-Chloro-6-(2-chloro-imidazol-1-yl)-pyrimidine (0.85 g, 4 mmol) and cyclopropylamine (1.4 mL, 20 mmol) were mixed in 10 mL methanol and stirred at 50° C. for 12 hours. After reaction was complete, the solvent was removed by rotary evaporation. The crude product was washed with water and taken to dryness to give the title compound (0.84 g, 90%); 1H NMR 400 MHz (DMSO-d6) δ 8.45 (s, 1H), 8.17 (d, 1H), 7.75 (s, 1 H), 7.08 (s, 1H), 6.80 (d, 1H), 3.34 (s, 1H), 0.78 (br, 2H), 0.52 (br, 2H); MS m/z 236.4 (M+1).

reactant | 4-Chloro-6-(2-chloro-imidazol-1-yl)-pyrimidine | 4 mmol, 0.85 g | ClC1=NC=NC(=C1)N1C(=NC=C1)Cl | C7H4Cl2N4
reactant | cyclopropylamine | 20 mmol, 1.4 mL | C1(CC1)N | C3H7N
solvent | methanol | 10 mL | CO | CH4O
product | [6-(2-Chloro-imidazol-1-yl)-pyrimidin-4-yl]-cyclopropyl-amine | 0.84 g, 90% | ClC=1N(C=CN1)C1=CC(=NC=N1)NC1CC1 | C10H10ClN5
